US09446034B2
7a) 2-Amino-5-fluoro-N-methylbenzamide
6-Fluoro-2H-3,1-benzoxazine-2,4(1H)-dione (200 mg, 1.104 mmol) was dissolved in dry tetrahydrofuran (THF) (10 mL), at which time methyl amine (3.31 mL, 6.63 mmol) was added. The reaction was stirred at room temperature for 1 h, then concentrated under vacuum. The crude product was purified on silica (Biotage, 40% EtOAc/hexene) to afford the title compound (120 mg, 65%) as a white solid. LC-MS (ES) m/z=169.1 (M+H)+

reactant | 6-Fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | 1.104 mmol, 200 mg | FC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4FNO3
reactant | methyl amine | 6.63 mmol, 3.31 mL | CN | CH5N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Amino-5-fluoro-N-methylbenzamide | 120 mg, 65% | NC1=C(C(=O)NC)C=C(C=C1)F | C8H9FN2O
